US04529736
To a solution of 5.0 g of 3a-(3,4-dichlorophenyl)octahydro-2-methyl-4,7-methano-1H-isoindole in 200 ml of toluene was added, dropwise over a 30 minute period, at room temperature, 30 ml of a solution of freshly distilled ethyl chloroformate in toluene. The reaction mixture was heated under reflux for 16 hours, then was concentrated in vacuo to give a colorless, viscous liquid. This liquid was dissolved in dichloromethane and chromatographed by preparative liquid chromatography on a silica gel column, eluting with 10% ethyl acetate/hexane and gave 1.9 g of 3a-(3,4-dichlorophenyl)octahydro-4,7-methano-2H-isoindole-2-carboxylic acid, ethyl ester as a slightly yellow, viscous liquid.

reactant | 3a-(3,4-dichlorophenyl)octahydro-2-methyl-4,7-methano-1H-isoindole | 5.0 g | ClC=1C=C(C=CC1Cl)C12CN(CC2C2CCC1C2)C | C16H19Cl2N
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3a-(3,4-dichlorophenyl)octahydro-4,7-methano-2H-isoindole-2-carboxylic acid, ethyl ester | 1.9 g | ClC=1C=C(C=CC1Cl)C12CN(CC2C2CCC1C2)C(=O)OCC | C18H21Cl2NO2
